US05300506
Ethyl 3-[3-hydroxy-prop-1-yl]-1H-indole-5-carboxylate
A solution of ethyl 3-[3-[(1,1-dimethylethyl)dimethylsilyloxy]prop-1-yl]-2-trimethylsilyl-1H-indole-5-carboxylate (5.0 g, 11.5 mmol), and aqueous 48% HF (1.9 g, 46.0 mmol) in 140 mL of MeCN was stirred at 23° C. for 3.5 h. The solution was quenched with 10% Na2CO3, and the organic material was extracted into ethyl acetate. The organic solution was dried (brine, MgSO4), filtered, and concentrated in vacuo. Silica gel chromatography (50-100% EtOAc-hexanes gradient) of the concentrate yielded the title compound (2.79 g, 98%) as a white crystalline solid: mp 111°-112° C. Anal. Calcd for C14H17N1O3 : C, 68.00; H, 6.93; N, 5.66. Found: C, 67.94; H, 6.78; N, 5.65.

reactant | ethyl 3-[3-[(1,1-dimethylethyl)dimethylsilyloxy]prop-1-yl]-2-trimethylsilyl-1H-indole-5-carboxylate | 11.5 mmol, 5.0 g | CC(C)(C)[Si](OCCCC1=C(NC2=CC=C(C=C12)C(=O)OCC)[Si](C)(C)C)(C)C | C23H39NO3Si2
solvent | MeCN | 140 mL | CC#N | C2H3N
product | Ethyl 3-[3-hydroxy-prop-1-yl]-1H-indole-5-carboxylate | 2.79 g, 98% | OCCCC1=CNC2=CC=C(C=C12)C(=O)OCC | C14H17NO3
